US08309545B2
5a) 5-Acetyl-6-(2-bromoethoxy)-4,7-dimethoxybenzofuran
Khellinone (850 mg, 3.6 mmol, 0.4 M), K2CO3 (3 eqs) and 1,2-dibromoethane (3 eqs) were reacted according to General Procedure A. The crude product was purified by flash chromatography, eluting with ethyl acetate:petroleum ether (15:85) to afford the title compound as a clear oil (1.02 g, 83%). 1H NMR (300 MHz, CDCl3): δ 2.53 (s, 3H), 3.57 (t, J=6.3 Hz, 2H), 3.98 (s, 3H), 4.07 (s, 3H), 4.35 (t, J=6.3 Hz, 2H), 6.86 (d, J=2.2 Hz, 1H), 7.57 (d, J=2.2 Hz, 1H). MS (ES+) m/z 342.8/344.8 (M+H+).

reactant | Khellinone | 3.6 mmol, 0.4 M, 850 mg | CC(=O)C1=C(C2=C(C(=C1O)OC)OC=C2)OC | C12H12O5
reactant | K2CO3 | C(=O)([O-])[O-].[K+].[K+]
reactant | 1,2-dibromoethane | BrCCBr | C2H4Br2
product | 5-Acetyl-6-(2-bromoethoxy)-4,7-dimethoxybenzofuran | 1.02 g, 83% | C(C)(=O)C=1C(=C(C2=C(C=CO2)C1OC)OC)OCCBr | C14H15BrO5
